US08809336B2
12E. [1-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester
To a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (74 mg, 0.48 mmol) in ethanol (1 ml) was added triethylamine (200 μl, 1.43 mmol) and 4-N-Boc-aminopiperidine (106 mg, 0.53 mmol). The solution was heated at 80° C. for 4 hours, and then cooled to room temperature. The precipitate was collected by filtration and washed with ethanol (2 ml), then dried under vacuum to yield the product (57 mg, 36%). LC/MS (LCT) Rt 4.57 [M+H]+ 318

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.48 mmol, 74 mg | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | triethylamine | 1.43 mmol, 200 μl | C(C)N(CC)CC | C6H15N
reactant | 4-N-Boc-aminopiperidine | 0.53 mmol, 106 mg | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | [1-(7H-Pyrrolo[2,3-d]pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 57 mg, 36% | C(C)(C)(C)OC(NC1CCN(CC1)C=1C2=C(N=CN1)NC=C2)=O | C16H23N5O2
